data/pmechdb/original/mc_train_fold0/raw/train.txt
CC1CC2CCC(=O)N(C2[C:10]3=[C:11]1[N:12](C4=C3C=CC=C4)C(=O)OC)C[CH:20]=[S+:21]C5=CC=CC=C5.C(=O)(C(F)(F)F)[O-]>>CC1CC2CCC(=O)N3C2[C:10]4([C:11]1=[N+:12](C5=C4C=CC=C5)C(=O)OC)[CH:20](C3)[S:21]C6=CC=CC=C6.C(=O)(C(F)(F)F)[O-] 10,11=10,20;20,21=21;12=11
CC(C)N[C:20](=[NH+:21]C(C)C)[O:10][C:11](CNC(=O)OC(C)(C)C)([N+]1=CC=C(C=C1)N(C)C)[O-:12].CCC1(C2=C(COC1=O)C(=O)N3CC4=C(C3=C2)N=C5C=CC=CC5=C4)O.CC(C)(C)OC(=O)NCC(=O)[O-].CN(C)C1=CC=NC=C1>>CC(C)(C)OC(=O)NC[C:11](=[O:12])[N+]1=CC=C(C=C1)N(C)C.CC(C)N[C:20](=[O:10])[NH:21]C(C)C.CCC1(C2=C(COC1=O)C(=O)N3CC4=C(C3=C2)N=C5C=CC=CC5=C4)O.CC(C)(C)OC(=O)NCC(=O)[O-].CN(C)C1=CC=NC=C1 10,11=10,20;20,21=21;12=11
[H:20][CH:21](C(=O)C)[C:22](=[O:23])C.[H:10][Na:11]>>C[C:22](=[CH:21]C(=O)C)[O-:23].[H:10][H:20].[Na+:11] 10,11=10,20;22,23=23;20,21=21,22
[H:20][CH:21]([C:22](=[O:23])C)C(=O)CC1=CC=CC=C1.[OH-:10]>>[H:20][OH:10].C[C:22](=[CH:21]C(=O)CC1=CC=CC=C1)[O-:23] 10=20;22,23=23;20,21=21,22
[Li-:10]1[N+:11](=CC(C(O1)CCC)(C)[Si](CC)(CC)CC)C(C)(C)C.CC(C)NC(C)C>>[Li:10]OC(CCC)C(C)(C=[N:11]C(C)(C)C)[Si](CC)(CC)CC.CC(C)NC(C)C 10,11=11
CC=[O:10].Cl[Ti:20](Cl)(Cl)Cl.CC(=C)O[Si](C)(C)C>>CC=[O+:10][Ti-:20](Cl)(Cl)(Cl)Cl.CC(=C)O[Si](C)(C)C 10=20,
[H:20][C:21]1([CH+:22]C2=C(N1)C=CC=C2)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=CC2=C(C=C1)N[C:21](=[CH:22]2)[N+](=O)[O-] 10=20;20,21=21,22
CCCCO[C:20](=[O:21])[N+]1=CC=C(C=C1)N(C)C.CC1=C(C(=O)N(C2=NC(=NC=C12)NC3=NC=C(C=C3)N4CC[NH:10]CC4)C5CCCC5)C(=O)C.[Cl-]>>CCCCO[C:20]([NH+:10]1CCN(CC1)C2=CN=C(C=C2)NC3=NC=C4C(=C(C(=O)N(C4=N3)C5CCCC5)C(=O)C)C)([N+]6=CC=C(C=C6)N(C)C)[O-:21].[Cl-] 10=20;20,21=21
C[CH:20](CCCCN1C(=O)C2=C(N=CN2CC3=CC=CC=C3)N(C1=O)C)[O:21][P+:22](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6.C1=CC(=CC=C1C(=O)[O-:10])[N+](=O)[O-].CCOC(=O)NNC(=O)OCC.CCOC(=O)NN=C(O)OCC>>C[CH:20](CCCCN1C(=O)C2=C(N=CN2CC3=CC=CC=C3)N(C1=O)C)[O:10]C(=O)C4=CC=C(C=C4)[N+](=O)[O-].C1=CC=C(C=C1)[P:22](=[O:21])(C2=CC=CC=C2)C3=CC=CC=C3.CCOC(=O)NNC(=O)OCC.CCOC(=O)NN=C(O)OCC 10=20;20,21=21,22
CC1(CC(=CC(=O)C1)O[C:20](C)([O-:10])[Cl:21])C.CC[NH+](CC)CC>>C[C:20](=[O:10])OC1=CC(=O)CC(C1)(C)C.[Cl-:21].CC[NH+](CC)CC 10=20;20,21=21
CC=CCCCC(SC1=CC=CC=C1)[S:10]C2=CC=CC=C2.C[S:20][S+:21](C)C.[B-](F)(F)(F)F>>CC=CCCCC(SC1=CC=CC=C1)[S+:10](C2=CC=CC=C2)[S:20]C.C[S:21]C.[B-](F)(F)(F)F 10=20;20,21=21
C[C+:20](C)CCC[OH:10]>>C[C:20]1(CCC[OH+:10]1)C 10=20,
CC1(C2C[CH2:10][C:11](C2)([C+:20]1CBr)[OH:12])C.C1CC(=O)[N-]C1=O>>CC1(C2C[CH2:10][C:20]1([C:11](=[OH+:12])C2)CBr)C.C1CC(=O)[N-]C1=O 10,11=10,20;12=11
C[Si:20](C)(C)I.CS(=O)(=O)[O-:10]>>C[Si-:20](C)(C)([O:10]S(=O)(=O)C)I 10=20,
COC1=CC(=CC=C1)CCNC(=[O:10])CC2=CC(=C(C=C2)OC)O.[O:21]=[P:20](Cl)(Cl)Cl>>COC1=CC(=CC=C1)CCNC(=[O+:10][P:20]([O-:21])(Cl)(Cl)Cl)CC2=CC(=C(C=C2)OC)O 10=20;20,21=21
C[O:10]C.C[Si:20](C)(C)Cl>>C[O+:10](C)[Si-:20](C)(C)(C)Cl 10=20,
[H:20][O+:21](C1C(C2C(COC(O2)C3=CC=CC=C3)OC1OC)I)P(C4=CC=CC=C4)(C5=CC=CC=C5)(C6=CC=CC=C6)I.C1=C[N:10]=CN1.C1=CC=C(C=C1)P(=O)(C2=CC=CC=C2)C3=CC=CC=C3.[I-]>>[H:20][N+:10]1=CNC=C1.COC1C(C(C2C(O1)COC(O2)C3=CC=CC=C3)I)[O:21]P(C4=CC=CC=C4)(C5=CC=CC=C5)(C6=CC=CC=C6)I.C1=CC=C(C=C1)P(=O)(C2=CC=CC=C2)C3=CC=CC=C3.[I-] 10=20;20,21=21
CC[Sn-:11](CC)(CC)([CH2:10][CH+:20]CC(C1=CC=CC=C1)O[Zn-](Cl)Cl)Cl>>CC[Sn:11](CC)(CC)Cl.[CH2:10]=[CH:20]CC(C1=CC=CC=C1)O[Zn-](Cl)Cl 10,11=10,20
C1=CC=C(C=C1)CCC=[O:10].Cl[Ti:20](Cl)(Cl)Cl.CC(=C=C)[Si](C)(C)C>>C1=CC=C(C=C1)CCC=[O+:10][Ti-:20](Cl)(Cl)(Cl)Cl.CC(=C=C)[Si](C)(C)C 10=20,
C[C:20](=[O:21])O[P+](O)(OC)OC.[N-:10]=[N+]=[N-]>>C[C:20]([N:10]=[N+]=[N-])([O-:21])O[P+](O)(OC)OC 10=20;20,21=21
CCOC(=O)NN(C(=O)OCC)[P+:20](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.CC(C(=O)OC(C1=CC=CC=C1)C2=CC=CC=C2)[OH:10].C1=CC=C(C=C1)OCC(=O)[O-]>>CCOC(=O)NN(C(=O)OCC)[P:20](C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)[OH+:10]C(C)C(=O)OC(C4=CC=CC=C4)C5=CC=CC=C5.C1=CC=C(C=C1)OCC(=O)[O-] 10=20,
CC[O:21][C:20](C)(C1CCCC1=O)[O-:10]>>CC[O-:21].C[C:20](=[O:10])C1CCCC1=O 10=20;20,21=21
[H:20][OH2+:21].CC(=O)CC[CH:10]=[CH:11][N-:12]C>>[H:20][CH:10](CCC(=O)C)[CH:11]=[N:12]C.[OH2:21] 10,11=10,20;20,21=21;12=11
CCO[C:11]1=[CH:10]C=CC=C1.C[C+:20]=O>>CCO[C+:11]1C=CC=C[CH:10]1[C:20](=O)C 10,11=10,20
[H:20][O:21]C(C1=CC=CO1)(C2=[N+](N=C3N2C(CC3F)C(C)C)C4=C(C(=C(C(=C4F)F)F)F)F)C([CH:10]=[C:11](C(=O)OCC)[O-:12])C5=CC=CC=C5.[B-](F)(F)(F)F.CC[NH+](C(C)C)C(C)C>>[H:20][CH:10](C(C1=CC=CC=C1)C(C2=CC=CO2)(C3=[N+](N=C4N3C(CC4F)C(C)C)C5=C(C(=C(C(=C5F)F)F)F)F)[O-:21])[C:11](=[O:12])C(=O)OCC.[B-](F)(F)(F)F.CC[NH+](C(C)C)C(C)C 10,11=10,20;20,21=21;12=11
C[S+:21]=[CH:20][O-:10]>>C[S:21][CH:20]=[O:10] 10=20;20,21=21
CCO[C:20](CC(=O)CC1=CC=CC=C1)([O-:10])[Cl:21]>>CCO[C:20](=[O:10])CC(=O)CC1=CC=CC=C1.[Cl-:21] 10=20;20,21=21
[H:20][CH:21](CC(=O)C)[C:22](=[NH+:23]C1=CC2=C(C=C1)C(=C(O2)C3=CC=CC=C3)I)C.C1=CC=[N:10]C=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1.O>>[H:20][N+:10]1=CC=CC=C1.CC(=O)C[CH:21]=[C:22](C)[NH:23]C1=CC2=C(C=C1)C(=C(O2)C3=CC=CC=C3)I.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1.O 10=20;22,23=23;20,21=21,22
